US04550105
In 15 ml of methylene chloride is dissolved 1.445 g of 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetic acid and under ice-cooling and stirring 686 mg of phosphorus pentachloride is added. The mixture is stirred under ice-cooling for 30 minutes, after which 4.5 ml of hexane is added. The resultant crystalline precipitate is collected by filtration and washed with hexane to give 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetyl chloride hydrochloride, m.p. 79°-82° C.

reactant | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetic acid | 1.445 g | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C18H17ClN4O8S
reactant | phosphorus pentachloride | 686 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hexane | 4.5 ml | CCCCCC | C6H14
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetyl chloride hydrochloride | Cl.ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | InChI=1S/C18H16Cl2N4O7S.ClH/c1-18(2,16(27)30-8-10-3-5-11(6-4-10)24(28)29)31-23-14(15(20)26)12-9-32-17(21-12)22-13(25)7-19;/h3-6,9H,7-8H2,1-2H3,(H,21,22,25);1H/b23-14-;
